data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_209195_1,[C:1](/[C:3]([N:5]([H:9])[H:10])=[N:7]/[C:2]([H:16])([H:17])[H:18])(/[C:4]([N:6]([H:11])[H:12])=[N:8]\[H:13])([H:14])[H:15]>>[C:1](=[C:3]([N:5]([H:9])[H:10])[N:7]([C:2]([H:16])([H:17])[H:18])/[C:4]([N:6]([H:11])[H:12])=[N:8]\[H:13])([H:14])[H:15],61.79180749997229
MR_374032_2,[C:1](\[C:3]([H:14])([H:15])[H:16])([C:7]([C:2]([C:5]([H:20])([H:21])[H:22])([C:6]([H:23])([H:24])[H:25])[H:10])([C:4]([H:17])([H:18])[H:19])[N:9]([H:11])[H:13])=[N:8]\[H:12]>>[C:1]1([C:3]([H:14])([H:15])[H:16])([N:8]([H:11])[H:12])[C:7]([C:2]([C:5]([H:20])([H:21])[H:22])([C:6]([H:23])([H:24])[H:25])[H:10])([C:4]([H:17])([H:18])[H:19])[N:9]1[H:13],59.68089750002278
MR_386518_0,[C:1]([C:4](/[C:3](=[C:5](\[C:2]([H:17])([H:18])[H:19])[C:7](=[C:8]([H:20])[H:21])[H:13])[N:6]([H:10])[H:11])=[N:9]\[H:12])([H:14])([H:15])[H:16]>>[C:1]([C:4]([C:3](/[C:5]([C:2]([H:17])([H:18])[H:19])=[C:7](/[C:8]([H:11])([H:20])[H:21])[H:13])=[N:6]\[H:10])=[N:9]\[H:12])([H:14])([H:15])[H:16],62.03276750000597
MR_33022_0,[C:1]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:6])[H:8])([O:5][C:2]([H:9])([H:10])[H:11])[H:7]>>[C:1]([C:3]([H:12])([H:13])[H:14])([C:4]([O:5][C:2]([H:9])([H:10])[H:11])=[O:6])([H:7])[H:8],72.02821499998805
MR_94481_0,[C:1]([C@@:3]1([H:8])[C:4]([H:12])([H:13])[C:2]2([H:7])[O:5][N:6]21)([H:9])([H:10])[H:11]>>[C:1](/[C:3](=[N:6]/[O:5][C:2](=[C:4]([H:12])[H:13])[H:7])[H:8])([H:9])([H:10])[H:11],37.43602249997096
MR_202203_0,[C:1](=[C:6]([C:4]([H:21])([H:22])[H:23])[C:5]([C:3]([H:18])([H:19])[H:20])([N:7]([H:10])[H:11])/[C:8](=[N:9]/[C:2]([H:15])([H:16])[H:17])[H:14])([H:12])[H:13]>>[C:1](/[C:6]([C:4]([H:21])([H:22])[H:23])=[C:5](\[C:3]([H:18])([H:19])[H:20])[N:7]([H:10])[H:11])(/[C:8](=[N:9]/[C:2]([H:15])([H:16])[H:17])[H:14])([H:12])[H:13],64.12987249999034
MR_602699_0,[C:1]([N:3]([C:2]([H:15])([H:16])[H:17])[H:8])(/[C:4]([N:6]([H:11])[H:12])=[N:7]/[N:5]([H:9])[H:10])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[N:3]([C:2]([H:15])([H:16])[H:17])[C@@:4]1([N:6]([H:11])[H:12])[N:7]([N:5]([H:9])[H:10])[H:8],50.9724524999659
MR_263210_0,[C:1]([N:4]([N:7]([H:11])[H:12])[H:10])([C:5](=[C:6]([C:2]([H:15])([H:16])[H:19])[C:3]([H:17])([H:18])[H:20])[O:8][H:9])([H:13])[H:14]>>[C:1]1([H:13])([H:14])[N:4]([N:7]([H:11])[H:12])[C@@:5]1([C:6]([C:2]([H:15])([H:16])[H:19])([C:3]([H:17])([H:18])[H:20])[H:10])[O:8][H:9],66.52817749999898
MR_673395_1,[C:1]1([H:8])=[N:3][O:6][C:5](=[O:7])[C:2]([H:10])([H:11])[N:4]1[H:9]>>[C:1]12([H:8])[N:3]([C:5](=[O:7])[C:2]([H:10])([H:11])[N:4]1[H:9])[O:6]2,62.70293749999041
MR_131542_0,[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])([C:4]([N:6]([H:14])[H:15])([O:8][H:9])[H:10])[H:11])([N:5]([H:12])[H:13])=[O:7]>>[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])([C:4]([N:6]([H:14])[H:15])=[O:8])[H:11])([N:5]([H:12])[H:13])([O:7][H:9])[H:10],60.33789000000482
MR_44202_1,[N:1]([C:2]([N:3]([H:8])[H:9])=[O:6])(/[N:4]=[N:5]/[H:10])[H:7]>>[N:1](=[C:2](/[N:3]([H:8])[H:9])[O:6]/[N:4]=[N:5]/[H:10])\[H:7],48.148075000034254
MR_47273_1,[C:1]([C:2]([H:9])([H:10])[H:11])([C:4]([C:3]([H:12])([H:13])[H:14])=[C:5]([H:15])[H:16])([O:6][H:7])[H:8]>>[C:1](\[C:2]([H:9])([H:10])[H:11])(=[C:4](/[C:3]([H:12])([H:13])[H:14])[C:5]([O:6][H:7])([H:15])[H:16])[H:8],66.05504249998077
MR_47803_0,[C@:1]12([N:7]([H:9])[H:10])[C@:2]([C:5]([H:13])([H:14])[H:15])([C@@:3]1([C:6]([H:16])([H:17])[H:18])[H:8])[C:4]2([H:11])[H:12]>>[C@:1]1([N:7]([H:9])[H:10])([H:8])[C:3]([C:6]([H:16])([H:17])[H:18])=[C:2]([C:5]([H:13])([H:14])[H:15])[C:4]1([H:11])[H:12],52.86812999999512
MR_478189_1,[C:1]([N:4]([C:5](=[C:6]([C:2]([H:16])([H:17])[H:18])[C:3]([H:19])([H:20])[H:21])[N:7]([H:10])[H:11])[C:8](=[O:9])[H:12])([H:13])([H:14])[H:15]>>[C:1](/[N:4]=[C:5](/[C:6]([C:2]([H:16])([H:17])[H:18])([C:3]([H:19])([H:20])[H:21])[C:8](=[O:9])[H:12])[N:7]([H:10])[H:11])([H:13])([H:14])[H:15],45.970022500004575
MR_642237_1,[C:1]([C:2]([N:7]([C:4]([C:3]([N:6]([C:5]([H:19])([H:20])[H:21])[H:11])([H:15])[H:16])([H:17])[H:18])[H:12])([H:13])[H:14])([O:8][H:10])=[O:9]>>[C:1]1([O:8][H:10])([O:9][H:11])[C:2]([H:13])([H:14])[N:7]([H:12])[C:4]([H:17])([H:18])[C:3]([H:15])([H:16])[N:6]1[C:5]([H:19])([H:20])[H:21],44.5198700000276
MR_258446_1,[C:1](\[C:2]([H:16])([H:17])[H:18])(=[C:4](\[C:6]([N:3]([H:10])[H:11])(/[C:5](=[N:8]/[H:12])[H:14])[H:15])[H:13])[O:7][H:9]>>[C:1]([C:2]([H:16])([H:17])[H:18])([N:3]([H:10])[H:11])(/[C:4](=[C:6]([C:5](=[N:8]/[H:12])/[H:14])\[H:15])[H:13])[O:7][H:9],62.39985500000657
MR_635864_0,[C:1](=[N:2]/[H:8])(\[N:6]=[N:5]/[C:3]([N:4]([H:10])[H:11])=[O:7])[H:9]>>[C:1]1([N:4]([H:10])[H:11])([H:9])[N:2]([H:8])[C:3](=[O:7])[N:5]=[N:6]1,55.405740000008734
MR_142501_1,[C:1](/[C:3](=[N:7]/[O:5][H:8])[H:11])([O:4][C:2]([H:12])([H:13])[H:14])([O:6][H:9])[H:10]>>[C:1](=[C:3](/[N:7]([O:4][C:2]([H:12])([H:13])[H:14])[O:5][H:8])[H:11])(\[O:6][H:9])[H:10],68.86059499999561
